US09403813B2
3-Ethoxyisonicotinonitrile
Sodium ethoxide (53 mg, 0.74 mmol) was added to a 0° C. solution of 3-chloro-4-cyanopyridine (100 mg, 0.72 mmol) in DMF (1 mL). The mixture was stirred at 0° C. for 30 min and at rt for 2 h, then the mixture was concentrated in vacuo. To the residue Et2O was added, and the salts were filtered off. The filtrate was concentrated in vacuo to yield the title compound as a white solid. LC-MS A: tR=0.67 min; [M(35Cl)+H]+=149.06.

reactant | Sodium ethoxide | 0.74 mmol, 53 mg | [O-]CC.[Na+]
reactant | 3-chloro-4-cyanopyridine | 0.72 mmol, 100 mg | ClC=1C=NC=CC1C#N | C6H3ClN2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-Ethoxyisonicotinonitrile | C(C)OC1=C(C#N)C=CN=C1 | C8H8N2O
